US07989461B2
2 M Aqueous sodium carbonate (857 μl, 1.7 mmol), tetrakis (triphenylphosphine)palladium (0) (99 mg, 86 μmol), N-(2,3-dihydro-1H-inden-5-yl)-8-iodo-7-methylquinazolin-4-amine hydrochloride (250 mg, 571 μmol), N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine (326 mg, 1142 μmol) and dioxane (5 mL) were added to a microwave vial. The reaction mixture was heated in a microwave at 180° C. for 20 min. The solid residue was filtered off through Celite® and washed with methanol and DCM. The filtrate was concentrated and purified by flash chromatography (0-10% MeOH in DCM) to give 6-(4-(2,3-dihydro-1H-inden-5-ylamino)-7-methylquinazolin-8-yl)-N-methylquinazolin-2-amine as an off-white amorphous solid. MS (M+H)+ 433.

reactant | sodium carbonate | 1.7 mmol, 2 M, 857 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(2,3-dihydro-1H-inden-5-yl)-8-iodo-7-methylquinazolin-4-amine hydrochloride | 571 μmol, 250 mg | Cl.C1CCC2=CC(=CC=C12)NC1=NC=NC2=C(C(=CC=C12)C)I
reactant | N-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-2-amine | 1142 μmol, 326 mg | CNC1=NC2=CC=C(C=C2C=N1)B1OC(C(O1)(C)C)(C)C | C15H20BN3O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 6-(4-(2,3-dihydro-1H-inden-5-ylamino)-7-methylquinazolin-8-yl)-N-methylquinazolin-2-amine | C1CCC2=CC(=CC=C12)NC1=NC=NC2=C(C(=CC=C12)C)C=1C=C2C=NC(=NC2=CC1)NC | C27H24N6
